US09255110B2
Stannous chloride (1.04 g, 5.49 mmol) was added to a solution of 4-chloro-1-(3-methoxy-propoxy)-2-nitro-benzene (0.448 g, 1.82 mmol) in a mixture of ethanol and ethyl acetate (1/1, 20 mL) and the resulting mixture was stirred at room temperature overnight. More stannous chloride (0.76 g, 4 mmol) was added and the reaction mixture was stirred for 1 day. The resulting mixture was partitioned between an aqueous solution of sodium bicarbonate (5%) and ethyl acetate, the aqueous solution was separated and extracted twice with ethyl acetate, the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The yellow oily residue was purified by flash chromatography (hexane/EtOAc, 80/20 to 60/40) to give 0.29 g (74% yield) of 5-chloro-2-(3-methoxy-propoxy)-phenylamine as a yellow oil.

reactant | 4-chloro-1-(3-methoxy-propoxy)-2-nitro-benzene | 1.82 mmol, 0.448 g | ClC1=CC(=C(C=C1)OCCCOC)[N+](=O)[O-] | C10H12ClNO4
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine water | 20 mL | N1=CC=CC=C1.O
product | 5-chloro-2-(3-methoxy-propoxy)-phenylamine | 0.29 g, 74% yield | ClC=1C=CC(=C(C1)N)OCCCOC | C10H14ClNO2
